US03978057
4 -ethylamino-6-chloro-3-[2-(1-methylbutyliden)hydrazino]pyridazine ##SPC30##
When allylacetone, benzaldehyde, methylbenzyl ketone or phenyl styryl ketone are substituted for 2-pentanone in the process of this example, 4-ethylamino-6-chloro-3-[2-(2-methylbutene-3-ylidene)hydrazino] pyridazine, 4-ethylamino-6-chloro-3-(2-benzylidenehydrazino)pyridazine, 4-ethylamino-6-chloro-3-[2-(1-methyl-2-phenethylidene)hydrazino]pyridazine or 4-ethylamino-6-chloro-3-[2-(1-phenylcinnamylidene)hydrazino]pyridazine, respectively, is obtained.

reactant | allylacetone | C(C=C)CC(C)=O | C6H10O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | methylbenzyl ketone | CC(=O)CC1=CC=CC=C1 | C9H10O
reactant | phenyl styryl ketone | C(=CC1=CC=CC=C1)C(=O)C1=CC=CC=C1 | C15H12O
reactant | 2-pentanone | CC(CCC)=O | C5H10O
reactant | 4-ethylamino-6-chloro-3-[2-(2-methylbutene-3-ylidene)hydrazino] pyridazine | C(C)NC1=C(N=NC(=C1)Cl)NN=C(C(=C)C)C | C11H16ClN5
reactant | 4-ethylamino-6-chloro-3-(2-benzylidenehydrazino)pyridazine | C(C)NC1=C(N=NC(=C1)Cl)NN=CC1=CC=CC=C1 | C13H14ClN5
reactant | 4-ethylamino-6-chloro-3-[2-(1-phenylcinnamylidene)hydrazino]pyridazine | C(C)NC1=C(N=NC(=C1)Cl)NN=CC=CC1(CC=CC=C1)C1=CC=CC=C1 | C21H22ClN5
product | 4 -ethylamino-6-chloro-3-[2-(1-methylbutyliden)hydrazino]pyridazine | C(C)NC1=C(N=NC(=C1)Cl)NN=C(CCC)C | C11H18ClN5
